US03948996
To a mixture of 10 g. of 1,1-dimethoxy-7-mercapto-3,7-dimethyloctane, one equiv. of sodium methoxide and 100 ml. of methanol is added 1.5 equivalents of methyl iodide. The mixture is stirred for 2 hours at room temperature and then refluxed for 2 hours. After cooling to room temperature, solvent is removed by evaporation and the residue taken up in ether. The ether solution is washed with water, dried and evaporated under reduced pressure to give 1,1-dimethoxy-7-methylthio-3,7-dimethyloctane which can be purified by chromatography or distillation.

reactant | 1,1-dimethoxy-7-mercapto-3,7-dimethyloctane | COC(CC(CCCC(C)(C)S)C)OC | C12H26O2S
reactant | sodium methoxide | one equiv. | C[O-].[Na+]
reactant | methyl iodide | 1.5 equivalents | CI | CH3I
solvent | methanol | CO | CH4O
product | 1,1-dimethoxy-7-methylthio-3,7-dimethyloctane | COC(CC(CCCC(C)(C)SC)C)OC | C13H28O2S
